US04303655
To a solution prepared by heating a mixture of selenium dioxide (0.33 g.), dioxane (15 ml.) and water (0.3 ml.) at 110° C. with stirring was added ethyl 2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-(2-hydroxy-1,3-thiazol-4-yl)acetate, (0.56 g.) without heating, and then the mixture was stirred for 30 minutes at 110° C. After the reaction, the reaction liquid was separated and the residue was washed with a small amount of dioxane. The reaction liquid and the washings were combined together, and the solvents were distilled off. To the residue was added ethyl acetate, and the mixture was washed with water and dried over magnesium sulfate. The solvent was distilled off from the mixture to give a solid of ethyl 2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate, which can be represented as ethyl 2-(2-hydroxy-1,3-thiazol-4-yl)glyoxylate, (0.55 g.)

reactant | selenium dioxide | 0.33 g | [Se](=O)=O | O2Se
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
reactant | ethyl 2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)acetate | O=C1SC=C(N1)CC(=O)OCC | C7H9NO3S
reactant | ethyl 2-(2-hydroxy-1,3-thiazol-4-yl)acetate | OC=1SC=C(N1)CC(=O)OCC | C7H9NO3S
solvent | water | 0.3 ml | O | H2O
product | ethyl 2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate | O=C1SC=C(N1)C(C(=O)OCC)=O | C7H7NO4S
